* Copyright (c) Linear Technology Corp. 2014.  All rights reserved.
*
.subckt LT6654-1.25 1 2 3
B2 N005 0 I=10u*(V(OUTS,GNDS)-1.24999)
C10 N005 0 1p Rpar=100K noiseless
A5 N002 0 0 0 0 0 N003 0 OTA g=50u iout=200u Cout=5p Vhigh=1e308 Vlow=-1e308
D9 N003 0 DLIM
C13 2 1 1000p
D7 2 1 DP
A1 0 N005 0 0 0 0 N002 0 OTA g=1m linear en=3.2u/((25+log(freq))+1m*dnlim(freq-40k,1,1k)) Cout=800p Rout=1.5k Vlow=-1e308 Vhigh=1e308
M1 OUTS N009 GNDS GNDS NI temp=27
C2 2 OUTS .1p Rpar=100Meg noiseless
M2 OUTS N004 2 2 PI temp=27
C3 OUTS 1 .1p Rpar=10Meg noiseless
M3 N004 N004 2 2 PI temp=27 M=10m
M4 N009 N009 1 1 NI temp=27 M=10m
A3 0 N006 2 2 2 2 N009 2 OTA g=1m asym isource=300u isink=-10u vlow=-1e308 vhigh=1e308
D1 2 N004 DLIMP
C1 N003 N002 76p Rser=200k noiseless
C4 N003 N002 76.7p Rser=150k noiseless
C6 2 N004 1p
C7 N009 1 1p
C8 2 N008 1p
R1 N008 1 100k noiseless
G1 1 N005 1 N008 1µ
R2 GNDS 1 13.5m noiseless
A4 0 N003 0 0 0 0 N006 0 OTA g=1u linear Cout=5f Vlow=-1e308 Vhigh=1e308
R3 3 OUTS 3m noiseless
G2 0 VDO 3 2 50µ
A7 3 OUTS 0 0 0 0 VDO 0 OTA g=2.1 asym isource=24u Isink=-50n Vhigh=1e308 Vlow=-1e308
D3 OUTS GNDS DIVOS
D4 N006 0 DNLG
G3 2 N005 2 1 15p
G6 0 VDO OUTS 3 80m
G7 0 N003 VDO 0 10m vto=-250m dir=1
A2 0 N006 1 1 1 1 N004 1 OTA g=.5m asym isource=1u Isink=-400u Vlow=-1e308 Vhigh=1e308
D2 N004 1 DIMIN
C9 VDO 0 100f Rpar=20k noiseless
C11 GNDS 1 1p
.model DP D(Roff=1G Ron=100 Vfwd=.5 epsilon=.5 ilimit=134u noiseless)
.model PI VDMOS(Vto=-300m Kp=40m  pchan  Cgs=1p oneway)
.model NI VDMOS(Vto=300m Kp=40m Cgs=1p)
.model DLIM D(Ron=100 Roff=100Meg Vfwd=7 Vrev=9.5 epsilon=100m revepsilon=100m noiseless)
.model DNLG D(Ron=3Meg Roff=800k vfwd=50m epsilon=50m vrev=10m revepsilon=100m noiseless)
.model DLIMP D(Ron=1k Roff=100Meg Vfwd=3.5 epsilon=100m  noiseless)
.model DIVOS D(Ron=1k Roff=1g vfwd=1 epsilon=1 ilimit=86u noiseless)
.model DIMIN D(Ron=100 Roff=1g vfwd=700m epsilon=700m ilimit=2.7u noiseless)
.ends LT6654-1.25
*
.subckt LT6654-2.048 1 2 3
B2 N005 0 I=10u*(V(OUTS,GNDS)-2.04799)
C10 N005 0 1p Rpar=100K noiseless
A5 N002 0 0 0 0 0 N003 0 OTA g=50u iout=200u Cout=5p Vhigh=1e308 Vlow=-1e308
D9 N003 0 DLIM
C13 2 1 1000p
D7 2 1 DP
A1 0 N005 0 0 0 0 N002 0 OTA g=1m linear en=4.5u/((25+log(freq))+1m*dnlim(freq-40k,1,1k)) Cout=800p Rout=1.5k Vlow=-1e308 Vhigh=1e308
M1 OUTS N009 GNDS GNDS NI temp=27
C2 2 OUTS .1p Rpar=100Meg noiseless
M2 OUTS N004 2 2 PI temp=27
C3 OUTS 1 .1p Rpar=10Meg noiseless
M3 N004 N004 2 2 PI temp=27 M=10m
M4 N009 N009 1 1 NI temp=27 M=10m
A3 0 N006 2 2 2 2 N009 2 OTA g=1m asym isource=300u isink=-10u vlow=-1e308 vhigh=1e308
D1 2 N004 DLIMP
C1 N003 N002 76p Rser=200k noiseless
C4 N003 N002 76.7p Rser=150k noiseless
C6 2 N004 1p
C7 N009 1 1p
C8 2 N008 1p
R1 N008 1 100k noiseless
G1 1 N005 1 N008 1µ
R2 GNDS 1 16m noiseless
A4 0 N003 0 0 0 0 N006 0 OTA g=1u linear Cout=5f Vlow=-1e308 Vhigh=1e308
R3 3 OUTS 3m noiseless
A6 OUTS 3 0 0 0 0 N011 0 OTA g=1 asym ref=-400n isource=100n Isink=-80n Rout=1Meg Vlow=-1e308 Vhigh=1e308
G2 0 VDO 3 2 50µ
A7 3 OUTS 0 0 0 0 VDO 0 OTA g=.7 asym isource=4.7u Isink=-.1u Vhigh=1e308 Vlow=-1e308
D3 OUTS GNDS DIVOS
D4 N006 0 DNLG
G4 2 N005 2 0 8.2p
G3 2 N005 2 1 8.2p
G6 0 VDO OUTS 3 .16
G7 0 N003 VDO N011 10m vto=0 dir=1
A2 0 N006 1 1 1 1 N004 1 OTA g=.5m asym isource=1u Isink=-400u in=255f/(1+1m*dnlim(freq-50k,1,1k)) Vlow=-1e308 Vhigh=1e308
D2 N004 1 DIMIN
G5 0 VDO 3 2 10m vto=120m dir=1
C9 VDO 0 100f Rpar=20k noiseless
C11 GNDS 1 1p
.model DP D(Roff=1G Ron=100 Vfwd=.5 epsilon=.5 ilimit=134u noiseless)
.model PI VDMOS(Vto=-300m Kp=40m  pchan  Cgs=1p oneway)
.model NI VDMOS(Vto=300m Kp=40m Cgs=1p)
.model DLIM D(Ron=100 Roff=100Meg Vfwd=7 Vrev=6 epsilon=100m revepsilon=100m noiseless)
.model DNLG D(Ron=3Meg Roff=800k vfwd=50m epsilon=50m vrev=10m revepsilon=100m noiseless)
.model DLIMP D(Ron=1k Roff=100Meg Vfwd=3.5 epsilon=100m  noiseless)
.model DIVOS D(Ron=1k Roff=1g vfwd=1 epsilon=1 ilimit=86u noiseless)
.model DIMIN D(Ron=100 Roff=1g vfwd=700m epsilon=700m ilimit=2.7u noiseless)
.ends LT6654-2.048
*
.subckt LT6654-2.5 1 2 3
B2 N005 0 I=10u*(V(OUTS,GNDS)-2.49999)
C10 N005 0 1p Rpar=100K noiseless
A5 N002 0 0 0 0 0 N003 0 OTA g=50u iout=200u Cout=5p Vhigh=1e308 Vlow=-1e308
D9 N003 0 DLIM
C13 2 1 1000p
D7 2 1 DP
A1 0 N005 0 0 0 0 N002 0 OTA g=1m linear en=5.2u/((25+log(freq))+1m*dnlim(freq-40k,1,1k)) Cout=800p Rout=1.5k Vlow=-1e308 Vhigh=1e308
M1 OUTS N009 GNDS GNDS NI temp=27
C2 2 OUTS .1p Rpar=100Meg noiseless
M2 OUTS N004 2 2 PI temp=27
C3 OUTS 1 .1p Rpar=10Meg noiseless
M3 N004 N004 2 2 PI temp=27 M=10m
M4 N009 N009 1 1 NI temp=27 M=10m
A3 0 N006 2 2 2 2 N009 2 OTA g=1m asym isource=300u isink=-10u vlow=-1e308 vhigh=1e308
D1 2 N004 DLIMP
C1 N003 N002 76p Rser=200k noiseless
C4 N003 N002 76.7p Rser=150k noiseless
C6 2 N004 1p
C7 N009 1 1p
C8 2 N008 1p
R1 N008 1 100k noiseless
G1 1 N005 1 N008 1µ
R2 GNDS 1 17m noiseless
A4 0 N003 0 0 0 0 N006 0 OTA g=1u linear Cout=5f Vlow=-1e308 Vhigh=1e308
R3 3 OUTS 3m noiseless
A6 OUTS 3 0 0 0 0 N011 0 OTA g=1 asym ref=-400n isource=100n Isink=-80n Rout=1Meg Vlow=-1e308 Vhigh=1e308
G2 0 VDO 3 2 50µ
A7 3 OUTS 0 0 0 0 VDO 0 OTA g=.7 asym isource=4.7u Isink=-.1u Vhigh=1e308 Vlow=-1e308
D3 OUTS GNDS DIVOS
D4 N006 0 DNLG
G3 2 N005 2 1 30p
G6 0 VDO OUTS 3 .16
G7 0 N003 VDO N011 10m vto=0 dir=1
A2 0 N006 1 1 1 1 N004 1 OTA g=.5m asym isource=1u Isink=-400u in=400f/(1+1m*dnlim(freq-50k,1,1k)) Vlow=-1e308 Vhigh=1e308
D2 N004 1 DIMIN
G5 0 VDO 3 2 10m vto=120m dir=1
C11 GNDS 1 1p
C9 VDO 0 100f Rpar=20k noiseless
.model DP D(Roff=1G Ron=100 Vfwd=.5 epsilon=.5 ilimit=134u noiseless)
.model PI VDMOS(Vto=-300m Kp=40m  pchan  Cgs=1p oneway)
.model NI VDMOS(Vto=300m Kp=40m Cgs=1p)
.model DLIM D(Ron=100 Roff=100Meg Vfwd=7 Vrev=4 epsilon=100m revepsilon=100m noiseless)
.model DNLG D(Ron=3Meg Roff=800k vfwd=50m epsilon=50m vrev=10m revepsilon=100m noiseless)
.model DLIMP D(Ron=1k Roff=100Meg Vfwd=3.5 epsilon=100m  noiseless)
.model DIVOS D(Ron=1k Roff=1g vfwd=1 epsilon=1 ilimit=86u noiseless)
.model DIMIN D(Ron=100 Roff=1g vfwd=700m epsilon=700m ilimit=2.7u noiseless)
.ends LT6654-2.5
*
.subckt LT6654-3.3 1 2 3
B2 N005 0 I=7.76u*(V(OUTS,GNDS)-3.29998)
C10 N005 0 1p Rpar=100K noiseless
A5 N002 0 0 0 0 0 N003 0 OTA g=50u iout=200u Cout=5p Vhigh=1e308 Vlow=-1e308
D9 N003 0 DLIM
C13 2 1 1000p
D7 2 1 DP
A1 0 N005 0 0 0 0 N002 0 OTA g=1m linear en=4.5u/((25+log(freq))+1m*dnlim(freq-40k,1,1k)) Cout=800p Rout=1.5k Vlow=-1e308 Vhigh=1e308
M1 OUTS N009 GNDS GNDS NI temp=27
C2 2 OUTS .1p Rpar=100Meg noiseless
M2 OUTS N004 2 2 PI temp=27
C3 OUTS 1 .1p Rpar=10Meg noiseless
M3 N004 N004 2 2 PI temp=27 M=10m
M4 N009 N009 1 1 NI temp=27 M=10m
A3 0 N006 2 2 2 2 N009 2 OTA g=1m asym isource=300u isink=-10u vlow=-1e308 vhigh=1e308
D1 2 N004 DLIMP
C1 N003 N002 76p Rser=200k noiseless
C4 N003 N002 76.7p Rser=150k noiseless
C6 2 N004 1p
C7 N009 1 1p
C8 2 N008 1p
R1 N008 1 100k noiseless
G1 1 N005 1 N008 1µ
R2 GNDS 1 30.8m noiseless
A4 0 N003 0 0 0 0 N006 0 OTA g=1u linear Cout=5f Vlow=-1e308 Vhigh=1e308
R3 3 OUTS 3m noiseless
A6 OUTS 3 0 0 0 0 N011 0 OTA g=1 asym ref=-400n isource=100n Isink=-80n Rout=1Meg Vlow=-1e308 Vhigh=1e308
G2 0 VDO 3 2 50µ
A7 3 OUTS 0 0 0 0 VDO 0 OTA g=.7 asym isource=4.7u Isink=-.1u Vhigh=1e308 Vlow=-1e308
D3 OUTS GNDS DIVOS
D4 N006 0 DNLG
G3 2 N005 2 1 26.2p
G6 0 VDO OUTS 3 .16
G7 0 N003 VDO N011 10m vto=0 dir=1
A2 0 N006 1 1 1 1 N004 1 OTA g=.5m asym isource=1u Isink=-400u in=320f/(1+1m*dnlim(freq-50k,1,1k)) Vlow=-1e308 Vhigh=1e308
D2 N004 1 DIMIN
G5 0 VDO 3 2 10m vto=120m dir=1
C9 VDO 0 100f Rpar=20k noiseless
C11 GNDS 1 10p
.model DP D(Roff=1G Ron=100 Vfwd=.5 epsilon=.5 ilimit=134u noiseless)
.model PI VDMOS(Vto=-300m Kp=40m  pchan  Cgs=1p oneway)
.model NI VDMOS(Vto=300m Kp=40m Cgs=1p)
.model DLIM D(Ron=100 Roff=100Meg Vfwd=7 Vrev=3.2 epsilon=100m revepsilon=100m noiseless)
.model DNLG D(Ron=3Meg Roff=800k vfwd=50m epsilon=50m vrev=10m revepsilon=100m noiseless)
.model DLIMP D(Ron=1k Roff=100Meg Vfwd=3.5 epsilon=100m  noiseless)
.model DIVOS D(Ron=1k Roff=1g vfwd=1 epsilon=1 ilimit=86u noiseless)
.model DIMIN D(Ron=100 Roff=1g vfwd=700m epsilon=700m ilimit=2.7u noiseless)
.ends LT6654-3.3
*
.subckt LT6654-3 1 2 3
B2 N005 0 I=8.6u*(V(OUTS,GNDS)-2.99998)
C10 N005 0 1p Rpar=100K noiseless
A5 N002 0 0 0 0 0 N003 0 OTA g=50u iout=200u Cout=5p Vhigh=1e308 Vlow=-1e308
D9 N003 0 DLIM
C13 2 1 1000p
D7 2 1 DP
A1 0 N005 0 0 0 0 N002 0 OTA g=1m linear en=4.8u/((25+log(freq))+1m*dnlim(freq-40k,1,1k)) Cout=800p Rout=1.5k Vlow=-1e308 Vhigh=1e308
M1 OUTS N009 GNDS GNDS NI temp=27
C2 2 OUTS .1p Rpar=100Meg noiseless
M2 OUTS N004 2 2 PI temp=27
C3 OUTS 1 .1p Rpar=10Meg noiseless
M3 N004 N004 2 2 PI temp=27 M=10m
M4 N009 N009 1 1 NI temp=27 M=10m
A3 0 N006 2 2 2 2 N009 2 OTA g=1m asym isource=300u isink=-10u vlow=-1e308 vhigh=1e308
D1 2 N004 DLIMP
C1 N003 N002 76p Rser=200k noiseless
C4 N003 N002 76.7p Rser=150k noiseless
C6 2 N004 1p
C7 N009 1 1p
C8 2 N008 1p
R1 N008 1 100k noiseless
G1 1 N005 1 N008 1µ
R2 GNDS 1 25.7m noiseless
A4 0 N003 0 0 0 0 N006 0 OTA g=1u linear Cout=5f Vlow=-1e308 Vhigh=1e308
R3 3 OUTS 3m noiseless
A6 OUTS 3 0 0 0 0 N011 0 OTA g=1 asym ref=-400n isource=100n Isink=-80n Rout=1Meg Vlow=-1e308 Vhigh=1e308
G2 0 VDO 3 2 50µ
A7 3 OUTS 0 0 0 0 VDO 0 OTA g=.7 asym isource=4.7u Isink=-.1u Vhigh=1e308 Vlow=-1e308
D3 OUTS GNDS DIVOS
D4 N006 0 DNLG
G3 2 N005 2 1 27.6p
G6 0 VDO OUTS 3 .16
G7 0 N003 VDO N011 10m vto=0 dir=1
A2 0 N006 1 1 1 1 N004 1 OTA g=.5m asym isource=1u Isink=-400u in=350f/(1+1m*dnlim(freq-50k,1,1k)) Vlow=-1e308 Vhigh=1e308
D2 N004 1 DIMIN
G5 0 VDO 3 2 10m vto=120m dir=1
C9 VDO 0 100f Rpar=20k noiseless
C11 GNDS 1 10p
.model DP D(Roff=1G Ron=100 Vfwd=.5 epsilon=.5 ilimit=134u noiseless)
.model PI VDMOS(Vto=-300m Kp=40m  pchan  Cgs=1p oneway)
.model NI VDMOS(Vto=300m Kp=40m Cgs=1p)
.model DLIM D(Ron=100 Roff=100Meg Vfwd=7 Vrev=3.5 epsilon=100m revepsilon=100m noiseless)
.model DNLG D(Ron=3Meg Roff=800k vfwd=50m epsilon=50m vrev=10m revepsilon=100m noiseless)
.model DLIMP D(Ron=1k Roff=100Meg Vfwd=3.5 epsilon=100m  noiseless)
.model DIVOS D(Ron=1k Roff=1g vfwd=1 epsilon=1 ilimit=86u noiseless)
.model DIMIN D(Ron=100 Roff=1g vfwd=700m epsilon=700m ilimit=2.7u noiseless)
.ends LT6654-3
*
.subckt LT6654-4.096 1 2 3
B2 N005 0 I=5.5u*(V(OUTS,GNDS)-4.09597-2*V(OUTS,3))
C10 N005 0 1p Rpar=100K noiseless
A5 N002 0 0 0 0 0 N003 0 OTA g=50u iout=200u Cout=5p Vhigh=1e308 Vlow=-1e308
D9 N003 0 DLIM
C13 2 1 1000p
D7 2 1 DP
A1 0 N005 0 0 0 0 N002 0 OTA g=1m linear en=4u/((25+log(freq))+1m*dnlim(freq-40k,1,1k)) Cout=800p Rout=1.5k Vlow=-1e308 Vhigh=1e308
M1 OUTS N009 GNDS GNDS NI temp=27
C2 2 OUTS .1p Rpar=100Meg noiseless
M2 OUTS N004 2 2 PI temp=27
C3 OUTS 1 .1p Rpar=10Meg noiseless
M3 N004 N004 2 2 PI temp=27 M=10m
M4 N009 N009 1 1 NI temp=27 M=10m
A3 0 N006 2 2 2 2 N009 2 OTA g=1m asym isource=300u isink=-10u vlow=-1e308 vhigh=1e308
D1 2 N004 DLIMP
C1 N003 N002 76p Rser=200k noiseless
C4 N003 N002 76.7p Rser=150k noiseless
C6 2 N004 1p
C7 N009 1 1p
C8 2 N008 1p
R1 N008 1 100k noiseless
G1 1 N005 1 N008 1µ
R2 GNDS 1 44.5m noiseless
A4 0 N003 0 0 0 0 N006 0 OTA g=1u linear Cout=5f Vlow=-1e308 Vhigh=1e308
R3 3 OUTS 3m noiseless
A6 OUTS 3 0 0 0 0 N011 0 OTA g=1 asym ref=-400n isource=100n Isink=-80n Rout=1Meg Vlow=-1e308 Vhigh=1e308
G2 0 VDO 3 2 50µ
A7 3 OUTS 0 0 0 0 VDO 0 OTA g=.7 asym isource=4.7u Isink=-.1u Vhigh=1e308 Vlow=-1e308
D3 OUTS GNDS DIVOS
D4 N006 0 DNLG
G3 2 N005 2 1 22.3p
G6 0 VDO OUTS 3 .16
G7 0 N003 VDO N011 10m vto=0 dir=1
A2 0 N006 1 1 1 1 N004 1 OTA g=.5m asym isource=1u Isink=-400u in=240f/(1+1m*dnlim(freq-50k,1,1k)) Vlow=-1e308 Vhigh=1e308
D2 N004 1 DIMIN
G5 0 VDO 3 2 10m vto=120m dir=1
C9 VDO 0 100f Rpar=20k noiseless
C11 GNDS 1 10p
.model DP D(Roff=1G Ron=100 Vfwd=.5 epsilon=.5 ilimit=134u noiseless)
.model PI VDMOS(Vto=-300m Kp=40m  pchan  Cgs=1p oneway)
.model NI VDMOS(Vto=300m Kp=40m Cgs=1p)
.model DLIM D(Ron=100 Roff=100Meg Vfwd=7 Vrev=2.4 epsilon=100m revepsilon=100m noiseless)
.model DNLG D(Ron=3Meg Roff=800k vfwd=50m epsilon=50m vrev=10m revepsilon=100m noiseless)
.model DLIMP D(Ron=1k Roff=100Meg Vfwd=3.5 epsilon=100m  noiseless)
.model DIVOS D(Ron=1k Roff=1g vfwd=1 epsilon=1 ilimit=86u noiseless)
.model DIMIN D(Ron=100 Roff=1g vfwd=700m epsilon=700m ilimit=2.7u noiseless)
.ends LT6654-4.096
*
.subckt LT6654-5 1 2 3
C10 N005 0 1p Rpar=100K noiseless
A5 N002 0 0 0 0 0 N003 0 OTA g=50u iout=200u Cout=5p Vhigh=1e308 Vlow=-1e308
D9 N003 0 DLIM
C13 2 1 1000p
D7 2 1 DP
A1 0 N005 0 0 0 0 N002 0 OTA g=1m linear en=3.2u/((25+log(freq))+1m*dnlim(freq-40k,1,1k)) Cout=800p Rout=1.5k Vlow=-1e308 Vhigh=1e308
M1 OUTS N009 GNDS GNDS NI temp=27
C2 2 OUTS .1p Rpar=100Meg noiseless
M2 OUTS N004 2 2 PI temp=27
C3 OUTS 1 .1p Rpar=10Meg noiseless
M3 N004 N004 2 2 PI temp=27 M=10m
M4 N009 N009 1 1 NI temp=27 M=10m
A3 0 N006 2 2 2 2 N009 2 OTA g=1m asym isource=300u isink=-10u vlow=-1e308 vhigh=1e308
D1 2 N004 DLIMP
C1 N003 N002 76p Rser=200k noiseless
C4 N003 N002 76.7p Rser=150k noiseless
C6 2 N004 1p
C7 N009 1 1p
C8 2 N008 1p
R1 N008 1 100k noiseless
G1 1 N005 1 N008 1µ
R2 GNDS 1 65m noiseless
A4 0 N003 0 0 0 0 N006 0 OTA g=1u linear Cout=5f Vlow=-1e308 Vhigh=1e308
R3 3 OUTS 3m noiseless
A6 OUTS 3 0 0 0 0 N011 0 OTA g=1 asym ref=-400n isource=100n Isink=-80n Rout=1Meg Vlow=-1e308 Vhigh=1e308
G2 0 VDO 3 2 50µ
A7 3 OUTS 0 0 0 0 VDO 0 OTA g=.7 asym isource=4.7u Isink=-.1u Vhigh=1e308 Vlow=-1e308
D3 OUTS GNDS DIVOS
D4 N006 0 DNLG
G3 2 N005 2 1 18p
G6 0 VDO OUTS 3 .16
G7 0 N003 VDO N011 10m vto=0 dir=1
A2 0 N006 1 1 1 1 N004 1 OTA g=.5m asym isource=1u Isink=-400u in=150f/(1+1m*dnlim(freq-50k,1,1k)) Vlow=-1e308 Vhigh=1e308
D2 N004 1 DIMIN
G5 0 VDO 3 2 10m vto=120m dir=1
B1 N005 0 I=3u*(V(OUTS,GNDS)-4.99995-4*V(OUTS,3))
C9 VDO 0 100f Rpar=20k noiseless
C11 GNDS 1 10p
.model DP D(Roff=1G Ron=100 Vfwd=.5 epsilon=.5 ilimit=134u noiseless)
.model PI VDMOS(Vto=-300m Kp=40m  pchan  Cgs=1p oneway)
.model NI VDMOS(Vto=300m Kp=40m Cgs=1p)
.model DLIM D(Ron=100 Roff=100Meg Vfwd=7 Vrev=1.5 epsilon=100m revepsilon=100m noiseless)
.model DNLG D(Ron=3Meg Roff=800k vfwd=50m epsilon=50m vrev=10m revepsilon=100m noiseless)
.model DLIMP D(Ron=1k Roff=100Meg Vfwd=3.5 epsilon=100m  noiseless)
.model DIVOS D(Ron=1k Roff=1g vfwd=1 epsilon=1 ilimit=86u noiseless)
.model DIMIN D(Ron=100 Roff=1g vfwd=700m epsilon=700m ilimit=2.7u noiseless)
.ends LT6654-5
